US04223132
To a solution of benzyl 7β-amino-3-methyl-3-cephem-4-carboxylate (1.2 g) and anisole (5.2 ml) in methylene chloride (100 ml) is added a solution of titanium tetrachloride (2.6 g) in nitromethane under ice cooling, and the mixture stirred for 9.5 hours at room temperature. The reaction mixture is adjusted to pH 1 or less with diluted hydrochloric acid (70 ml), washed with ethyl acetate, and neutralized with 6 N-sodium hydroxide. The resulting titanium hydroxide is removed by filtration, and the filtrate concentrated under reduced pressure at a temperature below 50° C. The resulting crystals are collected by filtration to give 7β-amino-3-methyl-3-cephem-4-carboxylic acid (270 mg). Yield: 32%. This product was identical with an authentic specimen in NMR and IR spectra.

reactant | benzyl 7β-amino-3-methyl-3-cephem-4-carboxylate | 1.2 g | N[C@H]1[C@@H]2N(C(=C(CS2)C)C(=O)OCC2=CC=CC=C2)C1=O | C15H16N2O3S
reactant | anisole | 5.2 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | hydrochloric acid | 70 ml | Cl | ClH
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | nitromethane | [N+](=O)([O-])C | CH3NO2
catalyst | titanium tetrachloride | 2.6 g | [Ti](Cl)(Cl)(Cl)Cl
product | 7β-amino-3-methyl-3-cephem-4-carboxylic acid | 270 mg, Yield: 32% | N[C@H]1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C8H10N2O3S
